US07994163B2
3-tert-Butoxycarbonyl-7-chloro-6-cyano-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Combine 7-chloro-6-cyano-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (3.08 g, 10.19 mmol) and K2CO3 (5.637 g, 40.79 mmol) in methanol (60 mL) and water (15 mL) and stir at room temperature for 1 h. Evaporate methanol in vacuo. Dissolve the residue in THF (50 mL) and water (20 mL), add di-tert-butyl-dicarbonate (2.22 g, 10.19 mmol) slowly at room temperature and stir for 30 min. Dilute with DCM and wash with water. Collect the organic layer, dry over anhydrous Na2SO4, filter and concentrate in vacuo to provide the desired intermediate that was used without further purification. MS (ES+) m/z: 207 (M-Boc+H)+.

reactant | 7-chloro-6-cyano-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 10.19 mmol, 3.08 g | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)C#N | C13H10ClF3N2O
reactant | K2CO3 | 40.79 mmol, 5.637 g | C(=O)([O-])[O-].[K+].[K+]
reactant | di-tert-butyl-dicarbonate | 10.19 mmol, 2.22 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 60 mL | CO | CH4O
solvent | water | 15 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-tert-Butoxycarbonyl-7-chloro-6-cyano-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)C#N | C16H19ClN2O2
